US06191273B1
1-Boc-2-chloromethylbenzimidazole (Cl-L15)
A solution of di-t-butyldicarbonate (6.6 g, 30.0 mmol) in THF (50 mL) was added slowly to a stirred solution of 2-(chloromethyl)benzimidazole (5.0 g, 30 mmol) and triethylamine (5.0 mL, 36 mmol) in THF (150 mL) at 0° C. The reaction mixture was stirred at rt overnight. The solvent was evaporated, and the residue was treated with CH2Cl2.H2O. The layers were separated and the aqueous phase was extracted with CH2Cl2. The combined organic phase was washed with brine, dried (Na2SO4), and concentrated under high vacuum. The residue was purified by flash chromatography on silica gel using 3:8 and then 4:6 EtOAc-Hexanes to give 1.8 g (25%) of the title compound as a pale oil.

reactant | di-t-butyldicarbonate | 30.0 mmol, 6.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(chloromethyl)benzimidazole | 30 mmol, 5.0 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | triethylamine | 36 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Boc-2-chloromethylbenzimidazole | 1.8 g, 25% | C(=O)(OC(C)(C)C)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
